US08957093B2
Step 7: 1-((2′-(tert-Butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid
A mixture of ethyl 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylate (3.72 g, 7.69 mmol) and NaOH (7.7 mL, 2 N, 15.4 mmol) in EtOH (30 mL) was refluxed at 100° C. for 2 h. The completion of the reaction was monitored by anal. HPLC. The reaction mixture was cooled to rt, then acidified to pH˜4 with 2 N HCl solution. The mixture was evaporated in vacuo to obtain the crude, which was precipitated from water and filtered to obtain the title compound. ESI-MS (m/z): 456 [M+H]+.

reactant | ethyl 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylate | 7.69 mmol, 3.72 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)OCC)C)C | C31H33NO4
reactant | NaOH | 15.4 mmol, 2 N, 7.7 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
product | 1-((2′-(tert-Butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
